US08133886B2
Step 23.2 6-(6-Chloro-pyrimidin-4-yloxy)-isoquinoline-1-carbonyl chloride
A solution of 870 μl (10.2 mMol) oxalyl chloride in 10 ml CH2Cl2 is added to an ice-cooled solution of 1.54 g (5.1 mMol) 6-(6-chloro-pyrimidin-4-yloxy)-isoquinoline-1-carboxylic acid and 10 μl DMF in 75 ml CH2Cl2. The reaction mixture is stirred at room temperature for 1 h. The solvent is then evaporated off under reduced pressure to afford the title compound as a brown solid, which is used directly without further purification.

reactant | oxalyl chloride | 10.2 mMol, 870 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-(6-chloro-pyrimidin-4-yloxy)-isoquinoline-1-carboxylic acid | 5.1 mMol, 1.54 g | ClC1=CC(=NC=N1)OC=1C=C2C=CN=C(C2=CC1)C(=O)O | C14H8ClN3O3
reactant | DMF | 10 μl | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
product | 6-(6-Chloro-pyrimidin-4-yloxy)-isoquinoline-1-carbonyl chloride | ClC1=CC(=NC=N1)OC=1C=C2C=CN=C(C2=CC1)C(=O)Cl | C14H7Cl2N3O2
